US05155113
Preparation of 4-(3-carboxybenzoyloxy)-2-pyridone
1.00 g of 4-hydroxy-2-pyridone was suspended in 50 ml of pyridine. After the addition of 3.65 g of isophthaloyl chloride, the suspension was refluxed with heating for 1.5 hours. The reaction mixture was left to stand for cooling, to which water was added and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The concentrate was washed with ether to give 1.00 g of the title compound in a yield of 43%.

reactant | 4-hydroxy-2-pyridone | 1.00 g | OC1=CC(NC=C1)=O | C5H5NO2
reactant | isophthaloyl chloride | 3.65 g | C(C1=CC(C(=O)Cl)=CC=C1)(=O)Cl | C8H4Cl2O2
reactant | water | O | H2O
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3-carboxybenzoyloxy)-2-pyridone | 1.00 g, yield of 43% | C(=O)(O)C=1C=C(C(=O)OC2=CC(NC=C2)=O)C=CC1 | C13H9NO5
